US08067362B2
Step 6: 4-(14-tert-Butoxycarbonyl tetradecyloxy)isophthalic acid 3-tert-butyl ester
4-(14-tert-Butoxycarbonyl-tetradecyloxy)-isophthalic acid 3-tert-butyl ester 1-methyl ester (381 mg, 0.69 mmol) was dissolved in methanol (10 ml). The solution was cooled to 0° C. and 4 N NaOH (1 ml) was added. The solution was allowed to warm to rt and more methanol (15 ml) was added. The reaction was stirred at rt for 30 min under N2, and at reflux for 2 h. The solution was cooled to 0° C. and 1 N HCl (1 ml) was added slowly. Water (25 ml) was added, and the solution was extracted with AcOEt (2×50 ml). The organic phases were pooled and washed with 1:1 water/sat. NaCl, dried over MgSO4, and concentrated under vacuum to yield an oily solid (326 mg, 89%)

reactant | 4-(14-tert-Butoxycarbonyl-tetradecyloxy)-isophthalic acid 3-tert-butyl ester 1-methyl ester | 0.69 mmol, 381 mg | COC(C1=CC(C(=O)OC(C)(C)C)=C(C=C1)OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C32H52O7
reactant | NaOH | 4 N, 1 ml | [OH-].[Na+]
reactant | HCl | 1 N, 1 ml | Cl | ClH
reactant | Water | 25 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
product | 4-(14-tert-Butoxycarbonyl tetradecyloxy)isophthalic acid 3-tert-butyl ester | 326 mg, 89% | C(C)(C)(C)OC(C=1C=C(C(=O)O)C=CC1OCCCCCCCCCCCCCCC(=O)OC(C)(C)C)=O | C31H50O7
